US09056873B2
Step B: 2-Chloro-5,6-difluoronicotinamide
To a mixture of 2-chloro-5,6-difluoronicotinonitrile (89.66 g, 514 mmol), acetamide (66.8 g, 1130 mmol), THF (337.5 mL), and water (113 mL) was added palladium(II) chloride (1.822 g, 10.27 mmol) with stirring. The reaction mixture was stirred at 60° C. for 18 hours under a nitrogen atmosphere. The reaction mixture was subsequently cooled to room temperature and was added to a stirred mixture of EtOAc (900 mL), hexane (90 mL) and water (180 mL). The layers were allowed to separate and the aqueous layer was removed. The organic layer was washed with water (180 mL) and concentrated on a rotary evaporator at 29° C. to afford an oil that solidified. The solid was suspended in hexanes (270 mL) and filtered after 1 hour. The flask was rinsed forward with hexanes (50 mL). The filter cake was washed with additional hexanes (20 mL) and dried in a vacuum oven at 40° C. to give the title compound as a light tan solid (82.21 g, 83%). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.93 (s br, 1H), 8.10 (s br, 1H), 8.32-8.37 (m 1H).

reactant | 2-chloro-5,6-difluoronicotinonitrile | 514 mmol, 89.66 g | ClC1=C(C#N)C=C(C(=N1)F)F | C6HClF2N2
reactant | acetamide | 1130 mmol, 66.8 g | C(C)(=O)N | C2H5NO
reactant | THF | 337.5 mL | C1CCOC1 | C4H8O
catalyst | palladium(II) chloride | 10.27 mmol, 1.822 g | [Pd](Cl)Cl
solvent | water | 180 mL | O | H2O
solvent | hexane | 90 mL | CCCCCC | C6H14
solvent | EtOAc | 900 mL | CCOC(=O)C | C4H8O2
solvent | water | 113 mL | O | H2O
product | 2-Chloro-5,6-difluoronicotinamide | 82.21 g, 83% | ClC1=C(C(=O)N)C=C(C(=N1)F)F | C6H3ClF2N2O
